US07507740B2
(iv) Production of 6-[(3-aminophenyl)ethynyl]-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine
6-Iodo-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine hydroiodide (200 mg) was dissolved in a mixed solvent of acetonitrile (7.6 mL)/triethylamine (5.72 mL), 3-ethynylaniline (0.0574 mL), trans-dichlorobis(triphenylphosphine)palladium(II) (15.4 mg) and copper(I) iodide (5.3 mg) were sequentially added, and the mixture was stirred under a nitrogen stream at room temperature for 1.5 hrs. The reaction mixture was concentrated under reduced pressure and the residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→ethyl acetate:methanol=80:20) to give the title compound (157 mg).

reactant | 6-Iodo-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine hydroiodide | 200 mg | I.IC1=C(C(=NC=N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)N
reactant | acetonitrile | 7.6 mL | C(C)#N | C2H3N
solvent | triethylamine | 5.72 mL | C(C)N(CC)CC | C6H15N
solvent | 3-ethynylaniline | 0.0574 mL | C(#C)C=1C=C(N)C=CC1 | C8H7N
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 15.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 5.3 mg | [Cu]I
product | 6-[(3-aminophenyl)ethynyl]-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine | 157 mg | NC=1C=C(C=CC1)C#CC1=C(C(=NC=N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)N | C25H22N6O
